US08957080B2
Synthesis of 4-amino-N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-4-methyl-pent-2-enamide HC1
To a solution of tert-butyl N-[4-[[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]amino]-3-cyano-1,1-dimethyl-4-oxo-but-2-enyl]carbamate (71 mg, 0.12 mmol) in methanol (1 mL) was added 4N HCl in Dioxane (2 mL). The solution was stirred for 4 days and then it was added dropwise to stirring ethyl ether (70 mL). The suspension was stirred for 30 minutes and then filtered and rinse with ethyl ether (10 mL) to obtain 57 mg (95%) of the title compound as an HCl salt.

reactant | tert-butyl N-[4-[[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]amino]-3-cyano-1,1-dimethyl-4-oxo-but-2-enyl]carbamate | 0.12 mmol, 71 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H](C)NC(C(=CC(C)(C)NC(OC(C)(C)C)=O)C#N)=O | C32H35FN8O4
reactant | HCl | 4N | Cl | ClH
reactant | ethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | methanol | 1 mL | CO | CH4O
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-amino-N-[(1R)-2-[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]-1-methyl-ethyl]-2-cyano-4-methyl-pent-2-enamide HC1 | 57 mg, 95% | Cl.NC(C=C(C(=O)N[C@@H](CN1N=C(C=2C1=NC=NC2N)C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C)C#N)(C)C | InChI=1S/C27H27FN8O2.ClH/c1-16(34-26(37)17(13-29)12-27(2,3)31)14-36-25-22(24(30)32-15-33-25)23(35-36)20-10-9-19(11-21(20)28)38-18-7-5-4-6-8-18;/h4-12,15-16H,14,31H2,1-3H3,(H,34,37)(H2,30,32,33);1H/t16-;/m1./s1
